US07868206B2
Tert-Butyl (S)-1-(phenylcarbamoyl)-3-(trifluoromethylthio)propylcarbamate (sk-244)
N-Boc-trifluoromethionine (200 mg, 0.659 mmol) was dissolved in 6.6 ml of dry THF in the presence of N2, and the temperature was adjusted to −78° C. Subsequently, N-methylmorpholine (0.09 ml, 0.794 mmol) was added thereto, and the mixture was stirred. Two minutes later, isobutyl chloroformate (0.10 ml, 0.794 mmol) was added thereto, and the mixture was stirred for 2 minutes. Finally, aniline (0.07 ml, 0.794 mmol) was added thereto. TLC was performed to confirm disappearance of the starting compound, and the solid matters were filtered, followed by distillation of THF under reduced pressure. The residue was purified by column chromatography (hexane/ethyl acetate=80/20 then 70/30), thereby the product (168.6 mg, 65%) was obtained.

reactant | N-Boc-trifluoromethionine | 0.659 mmol, 200 mg | C(=O)(OC(C)(C)C)N[C@@H](CCSC(F)(F)F)C(=O)O | C10H16F3NO4S
reactant | N-methylmorpholine | 0.794 mmol, 0.09 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.794 mmol, 0.10 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | aniline | 0.794 mmol, 0.07 ml | NC1=CC=CC=C1 | C6H7N
solvent | THF | 6.6 ml | C1CCOC1 | C4H8O
solvent | N2 | N#N | N2
product | Tert-Butyl (S)-1-(phenylcarbamoyl)-3-(trifluoromethylthio)propylcarbamate | 168.6 mg, 65% | C1(=CC=CC=C1)NC(=O)[C@H](CCSC(F)(F)F)NC(OC(C)(C)C)=O | C16H21F3N2O3S
